US07074798B2
c) 4-[1,3-Bis(2,2-dimethylpropionyloxymethyl)-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
2,2-Dimethylpropionic acid [8-chloro-3-(2,2-dimethylpropionyloxymethyl)-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydropurin-1-yl]methyl ester (470 mg) and 1-piperazinecarboxylic acid tert-butyl ester (218 mg) were dissolved in N-methylpyrrolidone (4 ml), and diazabicyclo[5.4.0]undecene (160 μl) was added to the solution. The mixture was stirred at 150° C. for 6.5 hours. The reaction mixture was filtered through Celite, diluted with chloroform, washed with water, and dried over anhydrous magnesium sulfate. After the solvent was removed by distillation from the organic layer, the residue was purified by silica gel column chromatography to give 277 mg of the title compound from the elution fraction of hexane-ethyl acetate (2:1)

reactant | 2,2-Dimethylpropionic acid [8-chloro-3-(2,2-dimethylpropionyloxymethyl)-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydropurin-1-yl]methyl ester | 470 mg | ClC1=NC=2N(C(N(C(C2N1CC=C(C)C)=O)COC(C(C)(C)C)=O)=O)COC(C(C)(C)C)=O | C22H31ClN4O6
reactant | 1-piperazinecarboxylic acid tert-butyl ester | 218 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | diazabicyclo[5.4.0]undecene | 160 μl | C12=NNCCCC2CCCC1 | C9H16N2
solvent | N-methylpyrrolidone | 4 ml | CN1C(CCC1)=O | C5H9NO
product | 4-[1,3-Bis(2,2-dimethylpropionyloxymethyl)-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 277 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1CC=C(C)C)=O)COC(C(C)(C)C)=O)=O)COC(C(C)(C)C)=O | C31H48N6O8
